US06528525B1
In a similar manner to that described in Reference example 2(b), a reaction was carried out using diethyl 2-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)malonate (25.2 g), which is the product of Reference example 5(c), and potassium hydroxide (20.0 g) and the reaction mixture was treated to afford, via crystals of 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)propionic acid, the desired compound (19.8 g) as a syrup.

reactant | diethyl 2-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)malonate | 25.2 g | OC1=CC=C(C=C1)C(C(=O)OCC)(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C22H26O6
reactant | potassium hydroxide | 20.0 g | [OH-].[K+]
product | 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)propionic acid | OC1=CC=C(C=C1)CC(C(=O)O)OC1=CC=C(C=C1)C(C)C | C18H20O4
